US06727264B1
N-[3-(1-{[1-(3-METHOXYPHENYL)-1H-INDOL-7-YL]METHYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE:
Prepared by Procedure C and Scheme Q1, with CuBr in place of Cu, using 1-iodo-3-methoxybenzene and N-{3-[1-(1H-indol-7-ylmethyl)-4-piperidinyl]phenyl}-2-methylpropanamide: ESMS m/e: 482.3 (M+H)+.

reactant | 1-iodo-3-methoxybenzene | IC1=CC(=CC=C1)OC | C7H7IO
reactant | N-{3-[1-(1H-indol-7-ylmethyl)-4-piperidinyl]phenyl}-2-methylpropanamide | N1C=CC2=CC=CC(=C12)CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C24H29N3O
product | N-[3-(1-{[1-(3-METHOXYPHENYL)-1H-INDOL-7-YL]METHYL}-4-PIPERIDINYL)PHENYL]-2-METHYLPROPANAMIDE | COC=1C=C(C=CC1)N1C=CC2=CC=CC(=C12)CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C31H35N3O2
